US07259179B2
N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-yl]pyrazine-2-carboxamide
In a procedure analogous to example 32, reaction of 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-amine (33 mg, 0.10 mmol) and pyrazine-2-carbonyl chloride (0.11 mmol) (prepared by reacting pyrazine-2-carboxylic acid with oxalyl chloride in dicloromethane at room temperature) furnished the product (24 mg, 55%) after chromatography.

reactant | 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-amine | 0.10 mmol, 33 mg | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | pyrazine-2-carbonyl chloride | 0.11 mmol | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
product | N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-yl]pyrazine-2-carboxamide | 24 mg, 55% | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)NC(=O)C2=NC=CN=C2 | C24H20N8O
